US05811389
2.0 ml of ethanolic hydrazine hydrate solution (1M) were added at room temperature to a suspension of 280 mg of [3,7-dimethoxy-6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-10-methyl-10H-dibenz[b,e][1,4]-oxazin-4-yl]-acetonitrile. The reaction mixture was heated to 85° for 4 hours, the cooled and poured into methylene chloride and 10% sodium carbonate solution. The aqueous phase was extracted with ethylene chloride and the combined organic fractions were dried over magnesium chloride and concentrated. The residue was dried in a high vacuum and, after recrystallization from tert.-butyl methyl ether/methanol, 180 mg (90.1%) of 6-aminomethyl-3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-acetonitrile were obtained as a beige solid of m.p. 167°-169° (dec.).

reactant | hydrazine hydrate | 1M, 2.0 ml | O.NN
reactant | [3,7-dimethoxy-6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-10-methyl-10H-dibenz[b,e][1,4]-oxazin-4-yl]-acetonitrile | 280 mg | COC=1C=CC2=C(OC3=C(N2C)C=CC(=C3CN3C(C2=CC=CC=C2C3=O)=O)OC)C1CC#N | C26H21N3O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-aminomethyl-3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-acetonitrile | 180 mg, 90.1% | NCC1=C(C=CC=2N(C3=C(OC21)C(=C(C=C3)OC)CC#N)C)OC | C18H19N3O3
